US03979513
To 4,5-dimethoxy-10-oxo-9,10-dihydroanthracene-9,9-diacetic acid (9.9 g.) in dry tetrahydrofuran (300 ml.) is added with stirring, in an atmosphere of nitrogen, diborane in tetrahydrofuran (1M, 100 ml.). The reaction mixture is refluxed for 72 hours, cooled, and water (100 ml.) is added. The tetrahydrofuran is evaporated and the remaining suspension is filtered, the residue is washed successively with aqueous sodium bicarbonate, water, a little isopropanol, and petroleum ether (b.p. 60°-80°C.) to give 9,9-di-(2-hydroxyethyl)-4,5-dimethoxy-9,10-dihydroanthracene, m.p. 193°-196°C.

reactant | 4,5-dimethoxy-10-oxo-9,10-dihydroanthracene-9,9-diacetic acid | 9.9 g | COC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)OC)(CC(=O)O)CC(=O)O | C20H18O7
reactant | diborane | B#B | B2
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 100 ml | O1CCCC1 | C4H8O
product | 9,9-di-(2-hydroxyethyl)-4,5-dimethoxy-9,10-dihydroanthracene | OCCC1(C2=CC=CC(=C2CC=2C(=CC=CC12)OC)OC)CCO | C20H24O4
